US04284634
A mixture of 2-chloroethyl 2-(2-cyanobenzylidene)acetoacetate (4.72 g) and ethyl 3-amino-4,4-diethoxycrotonate (4.06 g) was heated for 3 hours at 100~105° C. with stirring. After cooling, the reaction mixture was dissolved in ethyl acetate, and the solution was washed twice with an aqueous solution of sodium chloride and then dried over magnesium sulfate. After removal of the solvent under reduced pressure, the residual oil was chromatographed over silica gel with a mixture of benzene and ethyl acetate (5:1 V/V) to give 2-chloroethyl ester of 4-(2-cyanophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-2-methyl-1,4-dihydropyridine-3-carboxylic acid (5.81 g).

reactant | 2-chloroethyl 2-(2-cyanobenzylidene)acetoacetate | 4.72 g | C(#N)C1=C(C=C(C(=O)OCCCl)C(=O)C)C=CC=C1 | C14H12ClNO3
reactant | ethyl 3-amino-4,4-diethoxycrotonate | 4.06 g | N\C(=C/C(=O)OCC)\C(OCC)OCC | C10H19NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-cyanophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-2-methyl-1,4-dihydropyridine-3-carboxylic acid | 5.81 g | C(#N)C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C(OCC)OCC)C)C(=O)O | C22H26N2O6
